US05304555
2-iso-Propylamino-5,6-dihydro-7-methyl-6-oxo-(7H)pyrrolo[2,3-d]pyrimidine hydrochloride (compound No. 102)
0.49 g (2.4 mmoles) of 2-isopropylamino-5,6-dihydro-7-methyl-6-oxo(7H)pyrrolo[2,3-d]pyrimidine was dissolved in 30 ml of toluene, and hydrogen chloride gas was blown into the solution. The solution was concentrated under reduced pressure, and then washed with hexane to give 0.53 g (yield 92%) of the desired compound.

reactant | 2-isopropylamino-5,6-dihydro-7-methyl-6-oxo(7H)pyrrolo[2,3-d]pyrimidine | 2.4 mmoles, 0.49 g | C(C)(C)NC=1N=CC2=C(N1)N(C(C2)=O)C | C10H14N4O
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-iso-Propylamino-5,6-dihydro-7-methyl-6-oxo-(7H)pyrrolo[2,3-d]pyrimidine hydrochloride | 0.53 g, yield 92% | Cl.C(C)(C)NC=1N=CC2=C(N1)N(C(C2)=O)C | InChI=1S/C10H14N4O.ClH/c1-6(2)12-10-11-5-7-4-8(15)14(3)9(7)13-10;/h5-6H,4H2,1-3H3,(H,11,12,13);1H
